Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Cl[c:1]1[c:2]([C:3]([O:4][CH3:5])=[O:6])[c:7]([O:8][c:9]2[c:10]([CH3:11])[cH:12][c:13]([CH3:14])[cH:15][c:16]2[CH3:17])[n:18][c:19]([CH3:20])[cH:21]1.[CH3:22][CH2:23][CH:24]([NH2:25])[CH:26]([CH3:27])[OH:28]>>[c:1]1([NH:25][CH:24]([CH2:23][CH3:22])[CH:26]([CH3:27])[OH:28])[c:2]([C:3]([O:4][CH3:5])=[O:6])[c:7]([O:8][c:9]2[c:10]([CH3:11])[cH:12][c:13]([CH3:14])[cH:15][c:16]2[CH3:17])[n:18][c:19]([CH3:20])[cH:21]1,[Cl:101][c:1]1[c:2]([C:3]([O:4][CH3:5])=[O:6])[c:7]([O:8][c:9]2[c:10]([CH3:11])[cH:12][c:13]([CH3:14])[cH:15][c:16]2[CH3:17])[n:18][c:19]([CH3:20])[cH:21]1.[CH3:22][CH2:23][CH:24]([NH2:25])[CH:26]([CH3:27])[OH:28]>>[c:1]1([NH:25][CH:24]([CH2:23][CH3:22])[CH:26]([CH3:27])[OH:28])[c:2]([C:3]([O:4][CH3:5])=[O:6])[c:7]([O:8][c:9]2[c:10]([CH3:11])[cH:12][c:13]([CH3:14])[cH:15][c:16]2[CH3:17])[n:18][c:19]([CH3:20])[cH:21]1,SNAr(ortho),"[(25, 1), ([1, 2], [2, 3]), ([3, 6], 6), (6, [6, 3]), ([3, 2], [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
C[O:1][c:2]1[cH:27][cH:26][c:5]([S:6]([N:7]2[CH:8]([CH2:9][CH3:10])[c:11]3[cH:12][cH:13][cH:14][cH:15][c:16]3-[c:17]3[cH:18][c:19]([Br:20])[cH:21][cH:22][c:23]32)(=[O:24])=[O:25])[cH:4][cH:3]1>>[OH:1][c:2]1[cH:3][cH:4][c:5]([S:6]([N:7]2[CH:8]([CH2:9][CH3:10])[c:11]3[cH:12][cH:13][cH:14][cH:15][c:16]3-[c:17]3[cH:18][c:19]([Br:20])[cH:21][cH:22][c:23]32)(=[O:24])=[O:25])[cH:26][cH:27]1,[CH3:101][O:1][c:2]1[cH:3][cH:4][c:5]([S:6]([N:7]2[CH:8]([CH2:9][CH3:10])[c:11]3[cH:12][cH:13][cH:14][cH:15][c:16]3-[c:17]3[cH:18][c:19]([Br:20])[cH:21][cH:22][c:23]32)(=[O:24])=[O:25])[cH:26][cH:27]1.Br[B:301](Br)[Br:302].[OH2:303]>>[OH:1][c:2]1[cH:3][cH:4][c:5]([S:6]([N:7]2[CH:8]([CH2:9][CH3:10])[c:11]3[cH:12][cH:13][cH:14][cH:15][c:16]3-[c:17]3[cH:18][c:19]([Br:20])[cH:21][cH:22][c:23]32)(=[O:24])=[O:25])[cH:26][cH:27]1,O_demethylation,"[(1, 301), ([301, 302], 302), (302, 101), ([101, 1], 1), (303, 301), ([301, 1], 1)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[CH2:1][O:2][CH2:3][CH2:4][Si:5]([CH3:6])([CH3:7])[CH3:8].[CH3:9][CH2:10][O:11][C:12](=[O:13])[c:14]1[cH:15][nH:16][n:17][c:18]1-[c:19]1[n:20][c:21]2[c:22]([s:23]1)[CH2:24][CH2:25][CH2:26]2>>[CH2:1]([O:2][CH2:3][CH2:4][Si:5]([CH3:6])([CH3:7])[CH3:8])[n:16]1[cH:15][c:14]([C:12]([O:11][CH2:10][CH3:9])=[O:13])[c:18](-[c:19]2[n:20][c:21]3[c:22]([s:23]2)[CH2:24][CH2:25][CH2:26]3)[n:17]1,[CH3:9][CH2:10][O:11][C:12](=[O:13])[c:14]1[cH:15][nH:16][n:17][c:18]1-[c:19]1[n:20][c:21]2[c:22]([s:23]1)[CH2:24][CH2:25][CH2:26]2.[Cl:101][CH2:1][O:2][CH2:3][CH2:4][Si:5]([CH3:6])([CH3:7])[CH3:8]>>[CH2:1]([O:2][CH2:3][CH2:4][Si:5]([CH3:6])([CH3:7])[CH3:8])[n:16]1[cH:15][c:14]([C:12]([O:11][CH2:10][CH3:9])=[O:13])[c:18](-[c:19]2[n:20][c:21]3[c:22]([s:23]2)[CH2:24][CH2:25][CH2:26]3)[n:17]1,SN2,"[(16, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[S:1]([c:2]1[cH:3][cH:4][c:5]([CH3:6])[cH:7][cH:8]1)(=[O:9])=[O:10].[CH3:11][O:12][CH2:13][O:14][c:15]1[cH:16][cH:17][c:18]([C:19]2([CH3:20])[CH2:21][O:22][c:23]3[cH:24][c:25]([O:26][CH2:27][O:28][CH3:29])[cH:30][cH:31][c:32]3[CH:33]2[CH2:34][CH2:35][CH2:36][CH2:37][CH2:38][CH2:39][CH2:40][CH2:41][OH:42])[cH:43][cH:44]1>>[S:1]([c:2]1[cH:3][cH:4][c:5]([CH3:6])[cH:7][cH:8]1)(=[O:9])(=[O:10])[O:42][CH2:41][CH2:40][CH2:39][CH2:38][CH2:37][CH2:36][CH2:35][CH2:34][CH:33]1[C:19]([c:18]2[cH:17][cH:16][c:15]([O:14][CH2:13][O:12][CH3:11])[cH:44][cH:43]2)([CH3:20])[CH2:21][O:22][c:23]2[cH:24][c:25]([O:26][CH2:27][O:28][CH3:29])[cH:30][cH:31][c:32]21,[CH3:11][O:12][CH2:13][O:14][c:15]1[cH:16][cH:17][c:18]([C:19]2([CH3:20])[CH2:21][O:22][c:23]3[cH:24][c:25]([O:26][CH2:27][O:28][CH3:29])[cH:30][cH:31][c:32]3[CH:33]2[CH2:34][CH2:35][CH2:36][CH2:37][CH2:38][CH2:39][CH2:40][CH2:41][OH:42])[cH:43][cH:44]1.[Cl:101][S:1]([c:2]1[cH:3][cH:4][c:5]([CH3:6])[cH:7][cH:8]1)(=[O:9])=[O:10].[H-:301].[Na+]>>[S:1]([c:2]1[cH:3][cH:4][c:5]([CH3:6])[cH:7][cH:8]1)(=[O:9])(=[O:10])[O:42][CH2:41][CH2:40][CH2:39][CH2:38][CH2:37][CH2:36][CH2:35][CH2:34][CH:33]1[C:19]([c:18]2[cH:17][cH:16][c:15]([O:14][CH2:13][O:12][CH3:11])[cH:44][cH:43]2)([CH3:20])[CH2:21][O:22][c:23]2[cH:24][c:25]([O:26][CH2:27][O:28][CH3:29])[cH:30][cH:31][c:32]21,alcohol_attack_to_carbonyl_or_sulfonyl,"[(301, 42.1), ([42.1, 42], 42), (42, 1), ([1, 9], 9), (9, [9, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
